US06440995B1
(RS)-3-[2-(3-Chloro-4-methyl-phenyl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride
The title compound, m.p. 230-231° C. and MS: m/e=343.1 (M+H+), was prepared from 4-chloro-2-(3-chloro-4-methyl-phenyl)-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-2-(3-chloro-4-methyl-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC(=C(C=C1)C)Cl | C16H11Cl2N
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-[2-(3-Chloro-4-methyl-phenyl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride | Cl.ClC=1C=C(C=CC1C)C1=NC2=CC=CC=C2C(=C1)NCC(CO)O | InChI=1S/C19H19ClN2O2.ClH/c1-12-6-7-13(8-16(12)20)18-9-19(21-10-14(24)11-23)15-4-2-3-5-17(15)22-18;/h2-9,14,23-24H,10-11H2,1H3,(H,21,22);1H
